Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:2]([H:3])([H:4])[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13].[O:1]>>[O:1][C:2]([H:3])([H:4])[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13],-3.48228806981
[H:1][C:2]1=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[O:12]1>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[O:12],4.30033090977
[H:1][O:2]/[C:3]([H:4])=[C:5]\[C:8](=[C:7]=[O:6])[H:9]>>[H:1][O:2][C:3]([H:4])[C@:5]12[O:6][C:7]1[C:8]2[H:9],1.83438989861
[H:1][C:2].[O:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:1][C:2][O:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14],-6.10357458928
[H:1][C:2]#[C:3][C@@:6]([O:5][O:4])([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]=[C:3]1[O:4][O:5][C@:6]1([H:7])[C:8]([H:9])([H:10])[H:11],0.552634316791
[C:6]([H:7])[H:8].[H:1][C:2][O:3][C:4](=[O:5])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2][O:3][C:4]([O:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-2.0034536323400003
[C:6]=[C:7]([H:8])[H:9].[O:1]=[C:2]([H:3])[C:4]#[C:5]>>[O:1]=[C:2]([H:3])[C:4]#[C:5][C:6][C:7]([H:8])[H:9],-5.9651206598
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])[H:12]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([O:8][H:9])=[C:10]([H:11])[H:12].[H:7],1.32469401846
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4]([H:5])([H:6])=[C:7]=[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2][H:3],1.04706976273
[C:1].[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][O:10][H:11]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][O:10][H:11],-3.94534243852
[C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12].[H:1][O:2][O:3]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12],-2.26438866113
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2][O:3][H:4],4.05017370865
[H:1][C:2][O:3][C:4]([H:5])[C:6]#[C:7][O:8][H:9]>>[H:1][C:2][O:3][C:4][C:6]#[C:7][O:8][H:9].[H:5],4.386935065119999
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[O:11]>>[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[O:11].[O:1],4.1516590487
[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[O:9][H:10]>>[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][H:10].[H:1][C:2]=[O:3],1.50709943599
[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])[H:8])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:9]>>[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-4.31727019561
[H:15].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.6223950704500005
[H:1][C:2]#[C:3][C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:11]([H:12])[H:13].[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])[H:10],5.3490451317300005
[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:1]1[C:2][C:3]1[H:4]>>[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.4883196324
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:4]([H:5])=[C:6]([H:7])[H:8].[H:1][C:2]([H:3])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],4.37781717406
[C:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][O:8][H:9]>>[C:1]#[C:2].[C:3][C:4]([H:5])([H:6])[C:7][O:8][H:9],7.75543558518
[H:11].[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:12][H:13]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12][H:13],-1.56736390688
[H:1][C:2]#[C:3][C:4]([H:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:6]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-3.92866987514
[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:7][C:8]=[C:9]([H:10])[H:11].[H:6]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]=[C:9]([H:10])[H:11],-4.71387433067
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[O:7][C:8]([H:9])[H:10]>>[C:4]([H:5])#[C:6][O:7][C:8]([H:9])[H:10].[H:1][C:2]=[O:3],-1.05275042591
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]=[O:10]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:9]=[O:10].[H:8],2.40506436819
[H:1][O:2][C:3][C:4](=[C:5])[C:8]([H:9])([H:10])[H:11].[O:6][H:7]>>[H:1][O:2][C:3]/[C:4](=[C:5]\[O:6][H:7])[C:8]([H:9])([H:10])[H:11],-5.35748124983
[H:1].[O:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12],-1.64036682263
[C:3](=[C:4](\[O:5][H:6])[C:7]([H:8])([H:9])[H:10])\[C:11]([H:12])([H:13])[H:14].[H:1][C:2]>>[H:1][C:2]/[C:3](=[C:4](/[O:5][H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-6.40464566734
[H:1][C:2]#[C:3][O:4][C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10]>>[H:1][C:2]#[C:3][O:4][C:5]#[C:7][C:8]([H:9])[H:10].[H:6],4.51164761768
